US07968563B2
A stream of nitrogen was bubbled through a stirring suspension of 1-{4-amino-7-bromo-2-[(methoxyamino)methyl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-2-methylpropan-2-ol (0.590 g, 1.49 mmol),3-pyridineboronic acid (0.220 g, 1.79 mmol), and potassium carbonate (0.681 g, 4.93 mmol) in ethylene glycol dimethyl ether (10 mL) and water (5 mL) in a pressure vessel for 5 minutes. Dichlorobis(triphenylphosphine)palladium(III) (0.031 g, 0.045 mmol) was added and nitrogen was bubbled through for an additional 5 minutes. The pressure vessel was capped and placed in a 110° C. oil bath for 10 minutes. The resulting solution was cooled to ambient temperature and concentrated. The residue was purified by column chromatography using a HORIZON HPFC system (silica cartridge, eluting with 5-25% 1M ammonia/methanol in dichloromethane). The resulting yellow solid was crystallized from acetonitrile and isolated by filtration to yield 167 mg of 1-{4-amino-2-[(methoxyamino)methyl]-7-(pyridin-3-yl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-2-methylpropan-2-ol as a light yellow solid, mp 195-197° C.

reactant | 1-{4-amino-7-bromo-2-[(methoxyamino)methyl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-2-methylpropan-2-ol | 1.49 mmol, 0.590 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)CNOC)Br | C15H19BrN6O2
reactant | 3-pyridineboronic acid | 1.79 mmol, 0.220 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | potassium carbonate | 4.93 mmol, 0.681 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethylene glycol dimethyl ether | 10 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
product | 1-{4-amino-2-[(methoxyamino)methyl]-7-(pyridin-3-yl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-2-methylpropan-2-ol | 167 mg | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)CNOC)C=2C=NC=CC2 | C20H23N7O2
